US08748633B2
Compounds of Structures 2 and 4 are prepared from D-proline or D-pyroglutamic acid. For example, (R)-2,2,2-trifluoro-1-(pyrrolidin-2-yl)ethanol (Compound 2, Scheme I, R3=hydrogen) is prepared by oxidation of D-prolinol (Compound 4, Scheme I, R3=hydrogen) to afford D-prolinaldehyde (see e.g., Smith et al., March's Advanced Organic Chemistry, 6th ed., Wiley, N.J., 2007, p. 1715-1728). The resulting D-prolinaldehyde is reacted with CF3-TMS (trimethyl(trifluoromethyl)-silane) to afford the (R)-2,2,2-trifluoro-1-(pyrrolidin-2-yl)ethanol (see e.g., Prakash et al., J. Am. Chem. Soc. 111: 393, 1989).

reactant | D-prolinaldehyde | N1[C@@H](C=O)CCC1 | C5H9NO
reactant | CF3-TMS | C(F)(F)(F)[Si](C)(C)C | C4H9F3Si
product | (R)-2,2,2-trifluoro-1-(pyrrolidin-2-yl)ethanol | FC([C@H](O)C1NCCC1)(F)F | C6H10F3NO
